US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(4-morpholin-4-yl-3-o-tolyl-piperidin-1-yl)-methanone
The title compound, MS: m/e=501.2 (M+H+), was prepared in accordance with the general method of example 26 from 1-benzyl-3-o-tolyl-piperidin-4-one, morpholine and 3,5-bistrifluoromethyl-benzoyl chloride.

reactant | 1-benzyl-3-o-tolyl-piperidin-4-one | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C1=C(C=CC=C1)C | C19H21NO
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 3,5-bistrifluoromethyl-benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(4-morpholin-4-yl-3-o-tolyl-piperidin-1-yl)-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCOCC1)C1=C(C=CC=C1)C)(F)F | C25H26F6N2O2
